US04112095
Preparation of 6-[4-nitro-3-(trifluoromethyl)phenyl]-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 7.0 g. of 6-[4-nitro-3-(trifluoromethyl)phenyl]-3(2H)-pyridazinone and 80 ml. of phosphorus oxychloride is heated on a steam bath for 18 hours. The solvent is removed and ice water added to the residue. Filtration gives 7.2 g. of 3-chloro-6-[4-nitro-3-(trifluoromethyl)phenyl]pyridazine as tan crystals, m.p. 129°-135° C. Recrystallization from dichloromethane-hexane gives cream colored crystals, m.p. 151°-155° C. The preceding compound is reacted with formylhydrazine in refluxing n-butanol for 24 hours to give the product of the example.

reactant | 6-[4-nitro-3-(trifluoromethyl)phenyl]-3(2H)-pyridazinone | [N+](=O)([O-])C1=C(C=C(C=C1)C=1C=CC(NN1)=O)C(F)(F)F | C11H6F3N3O3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-chloro-6-[4-nitro-3-(trifluoromethyl)phenyl]pyridazine | ClC=1N=NC(=CC1)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C11H5ClF3N3O2
reactant | formylhydrazine | C(=O)NN | CH4N2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 6-[4-nitro-3-(trifluoromethyl)phenyl]-1,2,4-triazolo[4,3-b]pyridazine | [N+](=O)([O-])C1=C(C=C(C=C1)C=1C=CC=2N(N1)C=NN2)C(F)(F)F | C12H6F3N5O2
